US06579886B2
Preparation of [3S,4aR,6S,8aR]-Ethyl-6-((4-ethoxycarbonyl-5-methyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate dihydrochloride.
To a solution of 0.325 g of [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-5-methyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate in dry ethyl acetate (5 mL) at 20° C. was added 3.4 ml of a 1.0M solution of HCl in diethyl ether. The resulting precipitate was collected through filtration and vacuum dried at 50° C. to yield 0.214 g of the final title compound, [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-5-methyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate dihydrochloride: MS m/z: 378.3 (m++1-HCl); 1H NMR 400 MHz (CD3OD) δ 9.12 (s, 1 H), 4.44-4.38 (m, 2H), 4.27-4.22 (m, 2H), 4.16-4.09 (m, 3H), 3.38-3.32 (t, 1 H), 3.06 (br s, 2 H), 3.08-3.02 (dd, 1H), 2.62 (s, 3H), 2.17-2.02 (m, 2H), 1.98-1.90 (m, 3H), 1.74-1.64 (m, 2H), 1.63-1.59 (m, 1H), 1.46-1.33 (m, 5H), 1.31-1.25 (t, 3H), 1.23-1.08 (m, 1H).

reactant | [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-5-methyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 0.325 g | C(C)OC(=O)[C@H]1NC[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1C)C(=O)OCC | C20H31N3O4
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | [3S,4aR,6S,8aR]-Ethyl-6-((4-ethoxycarbonyl-5-methyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate dihydrochloride | 0.214 g | Cl.Cl.C(C)OC(=O)[C@H]1NC[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1C)C(=O)OCC | InChI=1S/C20H31N3O4.2ClH/c1-4-26-19(24)17-9-16-8-14(6-7-15(16)10-21-17)11-23-12-22-18(13(23)3)20(25)27-5-2;;/h12,14-17,21H,4-11H2,1-3H3;2*1H/t14-,15-,16+,17-;;/m0../s1
